US03950329
To a solution of 2.08 g (3.7 mmole) of benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide in 15 ml CH3CN and 6 ml DMF (dimethylformamide) at 0° is added 0.765 g (4.04 mmole) of anhydrous SnCl2 and 1.21 g (15.4 mmole) of acetyl chloride and the resulting mixture is stirred at 0° for 1.0 hrs, then at 30° for 1.0 hour, and then poured into water and extracted with ethyl acetate. The ethyl acetate layer is washed with 3% HCl solution, 5% NaHCO3 solution, and water, and then dried (MgSO4) and stripped in vacuo to yield benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate, which can be purified by the method outlined in 3 above.

reactant | benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate-1-oxide | 3.7 mmole, 2.08 g | FCC=1CS([C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O)=O | C27H23FN2O5S2
reactant | SnCl2 | 4.04 mmole, 0.765 g | Cl[Sn]Cl
reactant | acetyl chloride | 15.4 mmole, 1.21 g | C(C)(=O)Cl | C2H3ClO
reactant | water | O | H2O
solvent | CH3CN | 15 ml | CC#N | C2H3N
solvent | DMF | 6 ml | CN(C=O)C | C3H7NO
product | benzhydryl 3-fluoromethyl-7-(2-thienylacetamido)-3-cephem-4-carboxylate | FCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C(C2NC(CC=2SC=CC2)=O)=O | C27H23FN2O4S2
